US09193693B2
Step 5. 3-(2,3-Dihydrobenzo[b][1,4]oxazin-4-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(2,3-dihydrobenzo[b][1,4]oxazin-4-yl)-2-phenylquinoxaline-6-carboxylate (166.8 mg, 0.34 mmol, 1.00 equiv, 80%) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (84 mg, 2.10 mmol, 5.00 equiv) in water (1.5 mL) dropwise with stiffing. The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the aqueous solution was adjusted to 3-4 with 1N aqueous hydrogen chloride and concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-2): Column, SunFire Prep C18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and CH3CN (20% CH3CN up to 35% in 8 min, up to 70% in 8 min, up to 100% in 1.5 min); Detector, uv 220&254 nm. This resulted in 40 mg (31%) of 3-(2,3-dihydrobenzo[b][1,4]oxazin-4-yl)-2-phenylquinoxaline-6-carboxylic acid as a orange solid.

reactant | methyl 3-(2,3-dihydrobenzo[b][1,4]oxazin-4-yl)-2-phenylquinoxaline-6-carboxylate | 0.34 mmol, 166.8 mg, 1.00 equiv | O1C2=C(N(CC1)C=1C(=NC3=CC=C(C=C3N1)C(=O)OC)C1=CC=CC=C1)C=CC=C2 | C24H19N3O3
reactant | sodium hydroxide | 2.10 mmol, 84 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 3-(2,3-Dihydrobenzo[b][1,4]oxazin-4-yl)-2-phenylquinoxaline-6-carboxylic acid | O1C2=C(N(CC1)C=1C(=NC3=CC=C(C=C3N1)C(=O)O)C1=CC=CC=C1)C=CC=C2 | C23H17N3O3
